US08609674B2
3-Amino-2-cyclopropyl-7-fluoroquinazolin-4(3H)-one
Cyclopropanecarbonyl chloride (3.59 mL, 39.2 mmol) was added to a solution of 2-amino-4-fluorobenzoic acid (Aldrich) (2.0 g, 12.9 mmol) and pyridine (5.38 mL, 66.5 mmol) in tetrahydrofuran (15 mL). The mixture was stirred at 70° C. overnight. The mixture was cooled at 0° C., hydrazine (4.86 mL, 155 mmol) was added and the reaction was stirred at about room temperature for 30 minutes, then at about 75° C. for 24 hours. The reaction mixture was cooled to about 22° C., diluted with ethyl acetate, washed with aq. NaHCO3, dried with magnesium sulfate, filtered, and concentrated. The residue was suspended in toluene and concentrated. The process was repeated to obtain the crude title compound.

reactant | Cyclopropanecarbonyl chloride | 39.2 mmol, 3.59 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2-amino-4-fluorobenzoic acid | 12.9 mmol, 2.0 g | NC1=C(C(=O)O)C=CC(=C1)F | C7H6FNO2
reactant | pyridine | 66.5 mmol, 5.38 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrazine | 155 mmol, 4.86 mL | NN | H4N2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-2-cyclopropyl-7-fluoroquinazolin-4(3H)-one | NN1C(=NC2=CC(=CC=C2C1=O)F)C1CC1 | C11H10FN3O
